US06720320B2
4-hydroxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene
By the reactions in the same manner as in Starting Material Synthesis Example 5 using N-propargyl-4-(methoxymethyloxy)benzo(b)thiophene-2-carboxamide (6.00 g) and mercury acetate (765 mg), the title compound (2.41 g) was obtained as yellow crystals, melting point 188-189° C.

reactant | N-propargyl-4-(methoxymethyloxy)benzo(b)thiophene-2-carboxamide | 6.00 g | C(C#C)NC(=O)C1=CC2=C(S1)C=CC=C2OCOC | C14H13NO3S
catalyst | mercury acetate | 765 mg | C(C)(=O)[O-].[Hg+]
product | 4-hydroxy-2-(5-methyloxazol-2-yl)benzo(b)thiophene | 2.41 g | OC1=CC=CC=2SC(=CC21)C=2OC(=CN2)C | C12H9NO2S
